* X:\Documents\GitHub\Hardware_Vocoder\Hardware\Simulation\Ina217\Ina217 Mic.asc
* Generated by LTspice 24.1.6 for Windows.
X§U1 N008 N003 N001 N011 N006 N010 N005 N007 INA217
V§XLR_3 N002 0 SINE(0 2m 1K)
V§XLR_2 N009 0 SINE(0 -2m 1K)
C1 N003 N002 47µF V=63 Irms=7m Rser=1.1484 Lser=1.843n
C2 N008 N009 47µF V=25 Irms=0 Rser=0.014 Lser=1000p
V1 N001 0 6V
V2 N011 0 -6V
D1 N003 N001 1N4148
D2 N011 N003 1N4148
D3 N008 N001 1N4148
D4 N011 N008 1N4148
R1 N008 0 2.2K
R2 N003 0 2.2K
C3 N001 0 0.1µF
C4 N011 0 0.1µF
R3 N006 0 1Meg
R4 N005 N007 27
R5 N001 N012 33K
R6 N012 0 12K
X§U2 N012 N010 N001 0 N010 TLV2371
.model D D
.lib C:\users\steamuser\AppData\Local\LTspice\lib\cmp\standard.dio
.tran {50/fs}
.param fs=4kHz
.incl INA217.txt
* XLR_1
.lib tlv2371.lib
.lib INA217.txt
.backanno
.end
